2125-05-03 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient and family changed code status to DNR/DNI.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-5-1**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-5-2**] 06:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-5-3**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-3**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 98 (64 - 101) bpm
   BP: 140/63(81) {80/41(55) - 150/79(85)} mmHg
   RR: 25 (17 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    920 mL
                                                                    324 mL
   PO:
             TF:
   IVF:
                                                                    340 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    790 mL
                                                                    505 mL
   Urine:
                                                                    790 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    130 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 4L
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   12.5 g/dL
   74 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.8 mEq/L
   23 mg/dL
   100 mEq/L
   136 mEq/L
   36.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2125-5-1**]  10:27 AM
                             [**2125-5-1**]  10:59 AM
                             [**2125-5-1**]  05:26 PM
                             [**2125-5-1**]  10:56 PM
                             [**2125-5-2**]  03:45 AM
                             [**2125-5-2**]  03:21 PM
                             [**2125-5-3**]  02:16 AM
   WBC
   8.1
   11.2
   11.0
   11.4
   Hct
   35.7
   36.3
   35.0
   36.6
   Plt
   173
   169
   161
   177
   Cr
   1.0
   1.2
   1.3
   0.9
   1.0
   TropT
   0.25
   0.52
   0.33
   0.29
   TCO2
   27
   Glucose
   116
   123
   103
   69
   74
   Other labs: PT / PTT / INR:14.5/49.3/1.3, CK / CKMB /
   Troponin-T:273/12/0.29, ALT / AST:21/45, Alk Phos / T Bili:77/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:3.9 g/dL, LDH:254 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   ASSESSMENT/PLAN: Ms. [**Known lastname 7337**] is a [**Age over 90 **] year old woman with history of
   hypertension, mod aortic stenosis, mitral regurgitation presenting with
   cough, secretions, difficulty walking transferred to the ICU after
   respiratory distress with fluid overload, now ruled in for NSTEMI.
   .
   #) Hypoxia/tachypnea: Differential includes likely pulmonary edema in
   the setting of ~2 L IV fluid and cardiac ischemia in the setting of AS
   and diastolic dysfunction. Patient with evidence of NSTEMI as ruled in
   by troponins, no significant EKG changes. Given ASA, not candidate for
   other intervention, troponin now trending down. Also treated for
   possible pneumonia as patient with sx of cough and secretions on
   admission in addition to concern for aspiration pneumonia/pnuemonitis.
   Received lasix and morphine [**5-1**]  with improvement in respiratory
   status. Echo shows EF 70%, LVH, mod AS, mild MR (but likely worsen,
   given shadows)
   - nebulizers
   - Repeat CXR, if negative will d/c levaquin
   - cultures negative to date
   .
   #) Hypotension: Concern for overdiuresis vs cardiogenic shock in
   setting of NSTEMI. Also would consider infectious etiology given cough
   at presentation and low grade fevers, however less likely. Given 250 cc
   bolus x 2 for SBPs in 70s with improvement in BP to 80/90s [**5-2**] and
   increase in urine output. Overnight SBPs improved 100s-130s and good
   UOP.
   - gentle fluid boluses as needed- will try to avoid pulmonary edema
   .
   #) Tachycardia: sinus tachycardia. Patient is on Diltiazem as
   outpatient. Likely worsened in the setting of respiratory distress.
   Improved with diuresis
   -holding dilt given hypotension
   .
   #) Confusion/weakness: Patient is alert, mentating well with SBPs
   70-80s. Mental status initially improved, more confused this morning.
   -repeat CXR to evaluate for pneumonia, if negative will d/c levaquin as
   this may be contributing to patient
s confusion
   .
   # diarrhea: Improved
   -send stool studies, C-diff if diarrhea
   .
   #) F/E/N. No IVF as above. Monitor/replete electrolytes.
   #) Prophylaxis. Heparin
   #) Communication.  daughter and patient
   [**Doctor First Name 7339**] [**Telephone/Fax (5) 7340**]
   #) Access.  peripheral IV
   #) Code Status.   DNR/DNI
   #) Dispo.  Call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-5-2**] 01:00 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2125-05-04 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CXR showed increased bibasilar opacities, could be fluid as well,
   d/c'ed levoquin, given 20mg Lasix with -1.1L output
   -Showing signs of delirium and agitation, given 5mg Zydis and 0.5mg
   Haldol IV x 3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-5-1**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2125-5-2**] 06:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-5-3**] 05:00 PM
   Haloperidol (Haldol) - [**2125-5-3**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-5-4**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.9
C (96.7
   HR: 91 (71 - 117) bpm
   BP: 160/84(101) {84/44(56) - 160/116(125)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,230 mL
                                                                     53 mL
   PO:
                                                                    680 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    285 mL
   Urine:
                                                                  1,850 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 2L
   Physical Examination
   GENERAL: elderly female lethargic
   HEENT: EOMI, MMM
   CARD: RRR, normal S1/S2, III/VI SEM
   RESP: crackles b/l bases
   ABD: S/NT/ND + BS
   EXT: No C/C/E  2+ DP pulses
   NEURO: alert, confused
   Labs / Radiology
   205 K/uL
   12.1 g/dL
   74 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.8 mEq/L
   23 mg/dL
   100 mEq/L
   136 mEq/L
   35.7 %
   7.9 K/uL
        [image002.jpg]
                             [**2125-5-1**]  10:27 AM
                             [**2125-5-1**]  10:59 AM
                             [**2125-5-1**]  05:26 PM
                             [**2125-5-1**]  10:56 PM
                             [**2125-5-2**]  03:45 AM
                             [**2125-5-2**]  03:21 PM
                             [**2125-5-3**]  02:16 AM
                             [**2125-5-4**]  06:20 AM
   WBC
   8.1
   11.2
   11.0
   11.4
   7.9
   Hct
   35.7
   36.3
   35.0
   36.6
   35.7
   Plt
   173
   169
   161
   177
   205
   Cr
   1.0
   1.2
   1.3
   0.9
   1.0
   TropT
   0.25
   0.52
   0.33
   0.29
   TCO2
   27
   Glucose
   116
   123
   103
   69
   74
   Other labs: PT / PTT / INR:14.5/49.3/1.3, CK / CKMB /
   Troponin-T:273/12/0.29, ALT / AST:21/45, Alk Phos / T Bili:77/0.4,
   Lactic Acid:1.2 mmol/L, Albumin:3.9 g/dL, LDH:254 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   ASSESSMENT/PLAN: Ms. [**Known lastname 7337**] is a [**Age over 90 **] year old woman with history of
   hypertension, mod aortic stenosis, mitral regurgitation presenting with
   cough, secretions, difficulty walking transferred to the ICU after
   respiratory distress with fluid overload, now ruled in for NSTEMI.
   .
   #) Hypoxia/tachypnea: Differential includes likely pulmonary edema in
   the setting of ~2 L IV fluid and cardiac ischemia in the setting of AS
   and diastolic dysfunction. Patient with evidence of NSTEMI as ruled in
   by troponins, no significant EKG changes. Given ASA, not candidate for
   other intervention, troponin now trending down. Also treated for
   possible pneumonia as patient with sx of cough and secretions on
   admission in addition to concern for aspiration pneumonia/pnuemonitis.
   Received lasix and morphine [**5-1**]  with improvement in respiratory
   status. Echo shows EF 70%, LVH, mod AS, mild MR (but likely worsen,
   given shadows). Initally received levaquin for ? pneumonia but d/c
   [**5-3**] as no obvious pneumonia on CXR. [**5-3**] received additional dose of
   lasix with 1.1 L urine output, net 620 cc net negative over 24 hours.
   Now sating well on 2 L NC.
   - nebulizers
   - cultures negative to date
   - sputum cx if producing sputum
   .
   #) Hypotension: Concern for overdiuresis vs cardiogenic shock in
   setting of NSTEMI. Also would consider infectious etiology given cough
   at presentation and low grade fevers, however less likely. Given 250 cc
   bolus x 2 for SBPs in 70s with improvement in BP to 80/90s [**5-2**] and
   increase in urine output. [**5-3**] SBPs improved 100s-130s and good UOP.
   Overnight pressures stable.
   - diltiazem being held in setting of hypotension
   .
   #) Confusion/weakness: Patient was alert, mentating well with SBPs
   70-80s on presentation to MICU, although initial admission for ? MS
   changes. Mental status initially improved, became more delirious [**5-3**].
   Given haldol and zydis overnight. Potential etiologies include
   medication induced, environmental, or infectious.
   -levaquin d/c
d [**5-3**] due to concern it was contributing to patient
   confusion
   -continue to monitor for signs of infection
   -transfer to floor, screen for rehab vvs. Home
   - PT consult
   .
   # diarrhea: Improved
   -send stool studies, C-diff if diarrhea
   .
   #) F/E/N. No IVF as above. Monitor/replete electrolytes.
   #) Prophylaxis. Heparin
   #) Communication.  daughter and patient
   [**Doctor First Name 7339**] [**Telephone/Fax (5) 7340**]
   #) Access.  peripheral IV
   #) Code Status.   DNR/DNI
   #) Dispo.  Call out to floor today, rehab screen in ICU if no bed
   available for potential dispo out of hospital in next few days
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-5-2**] 01:00 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Call out to floor